* File: OR2x1.pex.netlist.pex
* Created: Mon Jun  5 13:18:38 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_OR2x1%D_VDD 1 4 8 9 14 19
c14 19 0 0.0974782f
c15 17 0 0.0467475f
c16 14 0 0.442897f
c17 9 0 0.127225f
c18 8 0 0.038712f
c19 4 0 0.442891f
r20 16 19 0.122778
r21 10 17 0.0231002
r22 9 17 0.0225187
r23 8 16 0.0472333
r24 8 9 0.2125
r25 4 17 0.0231002
r26 1 14 0.1445
r27 1 10 0.119
r28 1 4 0.238
.ends

.subckt PM_OR2x1%OUT 2 6 7 11 12 15 16
c21 16 0 0.157439f
c22 12 0 0.123747f
c23 11 0 0.0845093f
c24 7 0 0.123048f
c25 6 0 0.0892901f
r26 15 16 0.0875758
r27 11 13 0.0542887
r28 11 12 0.0542887
r29 6 16 0.0181392
r30 6 13 0.247917
r31 3 7 0.0142585
r32 3 12 0.40375
r33 2 7 0.119
.ends

.subckt PM_OR2x1%D_GND 1 4 5 9 12 15 24
c14 24 0 0.334937f
c15 16 0 0.0467475f
c16 15 0 0.338913f
c17 12 0 0.107676f
c18 9 0 0.108428f
c19 8 0 0.17516f
c20 5 0 0.124449f
c21 4 0 0.0994348f
r22 15 16 0.0231002
r23 14 16 0.0231002
r24 8 9 0.17
r25 6 16 0.0225187
r26 6 12 0.17
r27 5 9 0.0519666
r28 4 12 0.0519666
r29 1 8 0.0291595
r30 1 24 0.0222985
r31 1 24 0.2295
r32 1 14 0.068
r33 1 15 0.153
.ends

.subckt PM_OR2x1%NOOUT 2 4 5 7 8 9 12 15 16 17 18 21 29 35 39 40
c56 40 0 0.172293f
c57 39 0 0.228521f
c58 35 0 0.0482844f
c59 29 0 0.0380926f
c60 21 0 0.0922733f
c61 18 0 0.152037f
c62 17 0 0.0327145f
c63 16 0 0.0481906f
c64 15 0 0.139594f
c65 12 0 0.287179f
c66 9 0 0.0721041f
c67 8 0 0.157483f
c68 5 0 0.272915f
c69 4 0 0.642415f
c70 2 0 0.0708657f
r71 35 39 0.0519666
r72 28 29 0.0377999
r73 26 40 10.355
r74 25 28 0.0236111
r75 25 26 7
r76 22 35 0.0991667
r77 21 33 0.262083
r78 18 22 0.0474919
r79 18 29 0.396667
r80 16 21 0.0474919
r81 16 17 0.0991667
r82 15 28 0.0216719
r83 14 17 0.0474919
r84 14 15 0.48875
r85 10 40 5.62117
r86 10 12 54.1667
r87 8 40 11.0119
r88 8 9 50
r89 5 7 25
r90 4 9 13.9682
r91 3 5 13.9682
r92 3 4 220.833
r93 2 33 0.0519666
.ends

.subckt PM_OR2x1%A 3 7 10 13
c34 13 0 0.263693f
c35 10 0 0.0117414f
c36 7 0 0.610223f
c37 3 0 0.576463f
r38 13 17 1.59236
r39 13 15 30.2548
r40 10 13 7
r41 5 17 4.74069
r42 5 7 185.417
r43 1 15 4.74069
r44 1 3 158.333
.ends

.subckt PM_OR2x1%B 3 5 7 11 13 16 19 22 25
c23 25 0 0.276722f
c24 22 0 0.149089f
c25 19 0 0.0501333f
c26 16 0 0.117524f
c27 13 0 0.141562f
c28 11 0 0.266594f
c29 5 0 0.309458f
c30 3 0 0.279265f
r31 22 25 15.2843
r32 19 22 7
r33 14 16 14.5833
r34 13 25 77.0833
r35 12 13 16.6389
r36 11 16 1.46822
r37 10 22 15.2843
r38 10 11 79.1667
r39 5 14 1.46822
r40 5 7 81.25
r41 3 12 58.3333
.ends

