* File: SDFRX1.pex.netlist.pex
* Created: Mon Jun  5 13:21:06 2017
* Program "Calibre xRC"
* Version "v2017.1_17.12"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_SDFRX1%D_VDD 1 4 8 12 16 22 26 30 38 65 66 67 68 69 70 71
c78 71 0 0.162664f
c79 70 0 0.158459f
c80 69 0 0.162351f
c81 68 0 0.23624f
c82 67 0 0.172232f
c83 66 0 0.155029f
c84 65 0 0.169628f
c85 51 0 0.0701213f
c86 49 0 0.148034f
c87 44 0 0.0701213f
c88 38 0 0.450674f
c89 30 0 0.469853f
c90 26 0 0.550085f
c91 22 0 0.276724f
c92 16 0 0.694183f
c93 12 0 0.445933f
c94 8 0 0.470682f
c95 4 0 0.426864f
c96 1 0 0.280485f
r97 55 71 0.17
r98 52 70 0.17
r99 50 69 0.165278
r100 50 51 0.0120155
r101 48 68 0.0805263
r102 48 49 0.00578103
r103 45 67 0.146389
r104 43 66 0.17
r105 43 44 0.0120155
r106 40 65 0.17
r107 27 51 0.0329425
r108 23 49 0.0590946
r109 22 51 0.0329425
r110 16 49 0.0590946
r111 13 44 0.0329425
r112 8 44 0.0329425
r113 1 55 0.0120155
r114 1 30 0.0329425
r115 1 34 0.0329425
r116 1 52 0.0120155
r117 1 26 0.0329425
r118 1 31 0.0329425
r119 1 45 0.0120155
r120 1 12 0.0329425
r121 1 17 0.0329425
r122 1 40 0.0120155
r123 1 4 0.0329425
r124 1 9 0.0329425
r125 1 38 0.1615
r126 1 34 0.1105
r127 1 30 0.221
r128 1 31 0.1955
r129 1 26 0.272
r130 1 27 0.204
r131 1 22 0.1275
r132 1 23 0.1275
r133 1 16 0.119
r134 1 17 0.221
r135 1 12 0.2465
r136 1 13 0.153
r137 1 8 0.1785
r138 1 9 0.238
r139 1 4 0.2295
.ends

.subckt PM_SDFRX1%nCLK 2 5 8 13 19 23 27 31 34 39 42 44 45 48 49 51 52 53 54 55
+ 57 59 61 70 73 77 78 81 86 89 90 91 94 97 99 104 105 108
c220 108 0 0.230788f
c221 105 0 0.142547f
c222 104 0 0.760684f
c223 99 0 0.203131f
c224 97 0 0.453079f
c225 94 0 0.105935f
c226 91 0 0.127141f
c227 90 0 0.165446f
c228 89 0 0.0299742f
c229 86 0 0.0248162f
c230 81 0 0.0525709f
c231 78 0 0.165869f
c232 77 0 0.028777f
c233 73 0 0.0214224f
c234 71 0 0.0151376f
c235 70 0 0.0737014f
c236 61 0 0.0295906f
c237 59 0 0.0987692f
c238 57 0 0.0608031f
c239 55 0 0.0163724f
c240 54 0 0.01984f
c241 53 0 0.0223574f
c242 52 0 0.108773f
c243 51 0 0.118836f
c244 49 0 0.0585051f
c245 48 0 0.111232f
c246 47 0 0.107598f
c247 45 0 0.0972448f
c248 44 0 1.31357f
c249 42 0 0.180388f
c250 39 0 0.0710112f
c251 38 0 0.14445f
c252 34 0 0.47797f
c253 27 0 0.484318f
c254 23 0 0.349688f
c255 19 0 0.477217f
c256 13 0 0.480104f
c257 8 0 0.316896f
c258 5 0 0.327057f
c259 2 0 0.101786f
r260 99 104 279.167
r261 96 97 11.1176
r262 90 108 15.2843
r263 89 91 0.0519666
r264 89 90 7
r265 84 86 0.113333
r266 82 105 15.2843
r267 82 104 15.2843
r268 81 83 0.0817308
r269 81 82 7
r270 78 102 15.2843
r271 77 78 7
r272 74 99 15.2843
r273 74 96 20.8333
r274 73 74 7
r275 69 70 3.5
r276 62 86 0.00499195
r277 62 91 0.389583
r278 61 84 0.00499195
r279 60 83 0.0158582
r280 60 61 0.0920833
r281 59 77 0.0519666
r282 58 73 0.0519666
r283 58 59 0.410833
r284 57 71 0.417917
r285 55 71 0.0519666
r286 54 69 0.0212522
r287 54 55 0.0661111
r288 52 57 0.0474919
r289 52 53 0.17
r290 51 94 0.0566888
r291 50 53 0.0474919
r292 50 51 0.31875
r293 48 69 0.028753
r294 48 49 0.2975
r295 47 49 0.0474919
r296 47 67 0.205417
r297 45 97 175
r298 44 45 18.7188
r299 40 42 31.25
r300 38 70 29.1667
r301 38 39 8.75871
r302 37 70 15.2843
r303 32 34 145.833
r304 31 108 45.8333
r305 27 32 13.9682
r306 27 105 162.5
r307 23 102 91.6667
r308 17 96 6.3741
r309 17 19 133.333
r310 11 42 1.46822
r311 11 13 116.667
r312 10 39 4.42031
r313 10 44 460.417
r314 8 40 1.46822
r315 7 39 8.75871
r316 7 8 116.667
r317 5 37 75
r318 2 67 0.0519666
.ends

.subckt PM_SDFRX1%D_GND 1 9 10 11 12 13 14 15 41 44 47 50 53 73 78 89
c81 78 0 0.510149f
c82 73 0 0.544186f
c83 54 0 0.0701213f
c84 53 0 0.291126f
c85 51 0 0.0695625f
c86 50 0 0.76905f
c87 48 0 0.0695625f
c88 47 0 0.53032f
c89 45 0 0.0701213f
c90 44 0 0.548633f
c91 42 0 0.0701213f
c92 41 0 0.323971f
c93 14 0 0.144374f
c94 13 0 0.166127f
c95 12 0 0.123065f
c96 11 0 0.147322f
c97 10 0 0.149539f
c98 9 0 0.150326f
c99 1 0 0.690699f
r100 53 54 0.0329425
r101 52 54 0.0329425
r102 50 51 0.0329425
r103 49 51 0.0329425
r104 47 48 0.0329425
r105 46 48 0.0329425
r106 44 45 0.0329425
r107 43 45 0.0329425
r108 41 42 0.0329425
r109 40 42 0.0329425
r110 32 54 0.0120155
r111 28 51 0.0120155
r112 24 48 0.0120155
r113 20 45 0.0120155
r114 16 42 0.0120155
r115 15 78 0.0449894
r116 14 36 0.146389
r117 13 32 0.146389
r118 12 28 0.103889
r119 11 24 0.103889
r120 10 20 0.146389
r121 9 16 0.146389
r122 1 89 0.0415251
r123 1 15 0.00902719
r124 1 36 0.0120155
r125 1 73 0.0329425
r126 1 79 0.0329425
r127 1 78 0.2125
r128 1 79 0.238
r129 1 73 0.0935
r130 1 52 0.136
r131 1 53 0.1955
r132 1 49 0.0765
r133 1 50 0.119
r134 1 46 0.17
r135 1 47 0.0255
r136 1 43 0.17
r137 1 44 0.0255
r138 1 40 0.17425
r139 1 41 0.15725
.ends

.subckt PM_SDFRX1%CLK 2 5 9 15 21 25 27 28 29 31 44 48 49 53 55 58 59 62 63 64
+ 67 70 75 76 82 87
c177 87 0 0.168534f
c178 82 0 1.06236f
c179 76 0 0.143144f
c180 75 0 0.320655f
c181 70 0 0.151572f
c182 67 0 0.0795671f
c183 64 0 0.0424135f
c184 63 0 0.198735f
c185 62 0 0.0539528f
c186 59 0 0.231904f
c187 58 0 0.0470247f
c188 55 0 0.0410407f
c189 53 0 0.0186031f
c190 49 0 0.158659f
c191 48 0 0.0190028f
c192 44 0 0.0357266f
c193 31 0 0.142907f
c194 29 0 0.0478429f
c195 28 0 0.100972f
c196 27 0 0.878212f
c197 25 0 0.60989f
c198 21 0 0.31259f
c199 15 0 0.315898f
c200 9 0 0.672747f
c201 5 0 0.517313f
c202 2 0 0.0773268f
r203 81 82 11.1176
r204 76 82 379.167
r205 67 87 0.0566888
r206 63 81 18.0556
r207 62 64 0.0519666
r208 62 63 7
r209 59 77 20.8333
r210 58 60 0.10653
r211 58 59 7
r212 54 76 15.2843
r213 54 75 15.2843
r214 53 55 0.0519666
r215 53 54 7
r216 51 55 0.262083
r217 49 72 15.2843
r218 48 51 0.0519666
r219 48 49 7
r220 45 70 15.2843
r221 44 46 0.0192308
r222 44 45 7
r223 42 44 0.0144231
r224 36 60 0.0146918
r225 36 64 0.255
r226 32 46 0.0209436
r227 32 87 0.595
r228 31 42 0.0209436
r229 31 41 0.5525
r230 27 28 18.7188
r231 27 70 347.917
r232 23 81 6.3741
r233 23 25 187.5
r234 19 77 6.3741
r235 19 21 83.3333
r236 15 72 81.25
r237 12 29 10.5861
r238 12 75 112.5
r239 7 29 2.75115
r240 7 9 200
r241 5 29 10.5861
r242 5 28 175
r243 2 41 0.0519666
.ends

.subckt PM_SDFRX1%nSE 2 3 4 6 9 11 14 20 23 25 26 27 28 30 32 34 35 39 40 43 44
+ 45 48 52 57
c102 57 0 0.116431f
c103 52 0 0.279765f
c104 45 0 0.135394f
c105 44 0 0.157534f
c106 43 0 0.0264942f
c107 40 0 0.157715f
c108 39 0 0.0580204f
c109 35 0 0.0168792f
c110 34 0 0.033351f
c111 32 0 0.116594f
c112 30 0 0.0536066f
c113 28 0 0.112914f
c114 27 0 0.151479f
c115 26 0 0.335085f
c116 25 0 0.00554401f
c117 23 0 0.0139967f
c118 20 0 0.143992f
c119 17 0 0.0478429f
c120 14 0 0.323691f
c121 9 0 0.207416f
c122 6 0 0.270719f
c123 4 0 0.0962127f
c124 3 0 0.250554f
r125 48 57 0.0644691
r126 44 55 15.2843
r127 43 45 0.0519666
r128 43 44 7
r129 40 52 15.2843
r130 39 41 0.0407674
r131 39 40 7
r132 34 45 0.389583
r133 32 41 0.0185799
r134 31 34 0.0474919
r135 31 32 0.439167
r136 30 57 0.0196845
r137 30 35 0.177083
r138 27 28 0.672917
r139 25 28 0.0472333
r140 25 26 3.5
r141 23 35 0.0519666
r142 23 25 0.0944444
r143 18 20 29.1667
r144 16 26 16.6667
r145 14 55 81.25
r146 9 20 1.46822
r147 9 11 41.6667
r148 8 17 10.5861
r149 8 52 104.167
r150 6 18 1.46822
r151 5 17 2.75115
r152 5 6 91.6667
r153 4 16 14.7074
r154 3 17 10.5861
r155 3 4 91.6667
r156 2 27 0.168543
.ends

.subckt PM_SDFRX1%noxref_7 3 4 5 6
c28 6 0 0.221637f
c29 5 0 0.149404f
c30 4 0 0.110516f
r31 5 11 0.01496
r32 5 6 0.6375
r33 4 11 0.100262
r34 3 6 0.15677
.ends

.subckt PM_SDFRX1%nMQI 2 5 9 11 13 15 16 21 22 24 27 34 35 38 40
c111 40 0 0.0878746f
c112 38 0 0.299634f
c113 35 0 0.0339862f
c114 34 0 0.0338867f
c115 27 0 0.0456826f
c116 24 0 0.157001f
c117 22 0 0.159546f
c118 21 0 0.0175376f
c119 16 0 0.107713f
c120 15 0 0.021857f
c121 13 0 0.174528f
c122 11 0 0.110873f
c123 9 0 0.239618f
c124 5 0 0.398188f
c125 2 0 0.102423f
r126 40 46 0.02975
r127 37 38 7
r128 35 37 0.0817308
r129 32 33 0.0424858
r130 25 27 0.17
r131 24 35 0.0158582
r132 24 34 0.61625
r133 22 44 15.2843
r134 21 22 7
r135 19 34 0.0637358
r136 19 21 0.0283333
r137 18 21 0.02125
r138 17 32 0.0334507
r139 16 18 0.175042
r140 16 17 0.481667
r141 15 27 0.00499195
r142 15 33 0.0920833
r143 13 46 0.025958
r144 12 25 0.00499195
r145 12 13 0.991667
r146 11 38 40.2778
r147 9 44 50
r148 3 11 14.7074
r149 3 5 91.6667
r150 2 32 0.06375
.ends

.subckt PM_SDFRX1%MQI 2 5 8 9 11 14 18 20 21 25 27 28 31 34 35 36 38 40 42 44 45
+ 54 59 64 67 68 71
c140 71 0 0.0914739f
c141 68 0 0.233334f
c142 67 0 0.0304745f
c143 64 0 0.0364991f
c144 59 0 0.0458533f
c145 54 0 0.0999727f
c146 45 0 0.252255f
c147 44 0 0.0214063f
c148 42 0 0.0859294f
c149 40 0 0.0690532f
c150 38 0 0.0348316f
c151 36 0 0.138551f
c152 35 0 0.0921446f
c153 34 0 0.168414f
c154 31 0 0.20096f
c155 28 0 0.066587f
c156 27 0 0.425929f
c157 25 0 0.170604f
c158 21 0 0.12062f
c159 20 0 0.158347f
c160 18 0 0.359968f
c161 14 0 0.224617f
c162 9 0 0.209817f
r163 67 69 0.151163
r164 67 68 7
r165 62 64 0.1275
r166 59 60 7
r167 56 59 0.0708333
r168 50 71 0.0653846
r169 44 47 0.0519666
r170 44 45 7
r171 42 67 0.0553067
r172 41 64 0.00499195
r173 41 42 0.247917
r174 40 62 0.00499195
r175 39 56 0.0216719
r176 39 40 0.36125
r177 38 56 0.0216719
r178 37 54 0.0216719
r179 37 38 0.0920833
r180 36 50 0.0722095
r181 35 69 0.0132091
r182 35 36 0.198333
r183 34 50 0.183489
r184 34 47 0.630417
r185 30 31 7
r186 28 34 0.0286064
r187 28 30 0.108611
r188 27 60 43.0556
r189 23 68 27.7778
r190 23 25 27.0833
r191 21 45 33.3333
r192 20 21 19.451
r193 17 31 20.8333
r194 17 18 19.451
r195 12 27 14.7074
r196 12 14 52.0833
r197 9 25 1.46822
r198 9 11 41.6667
r199 8 20 25
r200 5 18 41.6667
r201 2 54 0.0425
.ends

.subckt PM_SDFRX1%nSQI 2 3 5 6 10 12 14 16 19 22 23 24 26 28 31 37 39 46 51 53
+ 56 58 61 64 69
c114 69 0 0.0903292f
c115 64 0 0.21521f
c116 58 0 0.0518317f
c117 56 0 0.0283924f
c118 53 0 0.126146f
c119 51 0 0.0437529f
c120 46 0 0.0497436f
c121 39 0 0.0106313f
c122 37 0 0.0197467f
c123 31 0 0.0130059f
c124 28 0 0.0340402f
c125 26 0 0.143156f
c126 24 0 0.0271999f
c127 23 0 0.0108051f
c128 22 0 0.0874744f
c129 19 0 0.199281f
c130 14 0 0.233f
c131 12 0 0.455633f
c132 10 0 0.211685f
c133 6 0 0.418811f
c134 3 0 0.434194f
c135 2 0 0.086582f
r136 61 69 0.02125
r137 57 64 11.1166
r138 56 58 0.0519666
r139 56 57 7
r140 52 63 11.8421
r141 51 53 0.0519666
r142 51 52 7
r143 46 48 0.085
r144 43 44 0.00236111
r145 35 37 0.155833
r146 34 48 0.00499195
r147 34 58 0.240833
r148 32 44 0.0216719
r149 31 46 0.00499195
r150 31 32 0.120417
r151 30 39 0.00935391
r152 30 53 0.4675
r153 28 69 0.025958
r154 27 39 0.0359928
r155 27 28 0.113333
r156 26 39 0.0359928
r157 25 37 0.00499195
r158 25 26 0.57375
r159 23 43 0.0184223
r160 23 24 0.117692
r161 22 35 0.00499195
r162 21 24 0.0475909
r163 21 22 0.332917
r164 17 19 37.5
r165 14 16 41.6667
r166 13 64 7.77785
r167 12 17 13.9682
r168 12 13 145.833
r169 8 64 11.521
r170 8 10 37.5
r171 7 63 7.02029
r172 6 14 13.9682
r173 6 7 120.833
r174 3 63 11.2726
r175 3 5 41.6667
r176 2 43 0.0684722
.ends

.subckt PM_SDFRX1%SQI 2 5 11 15 17 18 19 23 26 27 29 32 34 35 38 44 46 48 49 54
+ 62 63 69
c90 69 0 0.170036f
c91 63 0 0.126246f
c92 62 0 0.106863f
c93 54 0 0.112208f
c94 49 0 0.0361994f
c95 48 0 0.0506295f
c96 46 0 0.0714898f
c97 44 0 0.21893f
c98 38 0 0.080445f
c99 35 0 0.113752f
c100 34 0 0.241382f
c101 32 0 0.187479f
c102 27 0 0.242539f
c103 26 0 0.0811704f
c104 23 0 0.435811f
c105 19 0 0.365273f
c106 18 0 0.294271f
c107 17 0 0.524588f
c108 15 0 0.189327f
c109 11 0 0.450756f
c110 8 0 0.123469f
c111 5 0 0.340287f
c112 2 0 0.0666166f
r113 63 64 11.1176
r114 62 72 0.0586518
r115 55 69 15.2843
r116 54 55 7
r117 48 49 0.0368443
r118 48 60 0.304583
r119 46 72 0.0235251
r120 45 50 0.0216719
r121 45 46 0.290417
r122 44 54 0.101528
r123 44 50 0.0259722
r124 43 49 0.0368443
r125 43 44 0.184783
r126 41 66 15.2843
r127 41 63 4.16667
r128 40 41 3.5
r129 38 49 0.00864851
r130 38 40 0.193611
r131 34 35 18.7188
r132 34 66 77.0833
r133 30 32 33.3333
r134 27 29 25
r135 25 27 13.9682
r136 25 26 25
r137 21 23 114.583
r138 19 21 13.9682
r139 19 69 87.5
r140 18 37 22.3214
r141 17 26 13.9682
r142 17 18 145.833
r143 16 63 6.3741
r144 15 37 8.38049
r145 15 16 66.6667
r146 11 64 127.083
r147 8 32 1.46822
r148 8 35 37.5
r149 3 30 1.46822
r150 3 5 91.6667
r151 2 60 0.0519666
.ends

.subckt PM_SDFRX1%Q 2 8 12 15 19
c35 19 0 0.0833422f
c36 15 0 0.0918005f
c37 12 0 0.0780981f
c38 8 0 0.147944f
c39 2 0 0.179739f
r40 15 17 0.0374015
r41 15 16 0.0374015
r42 10 19 0.118056
r43 9 12 0.151111
r44 9 10 0.00499195
r45 8 12 0.00499195
r46 8 17 0.292778
r47 2 16 0.358889
.ends

.subckt PM_SDFRX1%QN 2 11 12 15
c12 15 0 0.499601f
c13 12 0 0.171084f
c14 2 0 0.207115f
r15 11 12 0.0141667
r16 8 15 0.495833
r17 7 11 0.0613889
r18 7 8 0.00499195
r19 3 12 0.00499195
r20 2 3 0.160556
.ends

.subckt PM_SDFRX1%noxref_19 1 2 5 6 10
c21 10 0 0.134705f
c22 2 0 0.208561f
c23 1 0 0.124458f
r24 6 10 0.148922
r25 2 5 0.10749
r26 1 10 0.0138203
r27 1 2 0.524167
.ends

.subckt PM_SDFRX1%iCLK 3 6 9 13 16 23
c30 23 0 0.202698f
c31 16 0 0.0562857f
c32 13 0 0.257707f
c33 9 0 0.267091f
c34 6 0 0.414712f
c35 3 0 0.610262f
r36 19 23 12.5
r37 16 19 7
r38 11 13 26.3889
r39 7 13 6.3741
r40 7 9 54.1667
r41 6 11 6.3741
r42 5 23 6.3741
r43 5 6 127.083
r44 1 23 6.3741
r45 1 3 164.583
.ends

.subckt PM_SDFRX1%SD 3 7 9 13 15 17 19 23
c47 23 0 0.217353f
c48 19 0 0.0846058f
c49 17 0 0.024977f
c50 13 0 0.165942f
c51 9 0 0.174136f
c52 7 0 0.351719f
c53 3 0 0.230643f
r54 18 23 15.2778
r55 17 19 0.0519666
r56 17 18 7
r57 13 26 15.2843
r58 12 15 0.0853102
r59 12 13 7
r60 9 15 0.102593
r61 9 19 0.432083
r62 5 23 6.3741
r63 5 7 95.8333
r64 3 26 50
.ends

.subckt PM_SDFRX1%SE 3 5 7 8 12 16 19 23 24 33 35 42 44 45 46 51 52 53 57 59
c94 59 0 0.187712f
c95 57 0 0.164052f
c96 53 0 0.15286f
c97 52 0 0.161746f
c98 51 0 0.0471388f
c99 46 0 0.0864288f
c100 45 0 0.0289211f
c101 44 0 0.0281491f
c102 42 0 0.0383793f
c103 35 0 0.0214751f
c104 33 0 0.0276957f
c105 24 0 0.0686286f
c106 23 0 0.0461759f
c107 19 0 0.0624338f
c108 16 0 0.335504f
c109 12 0 0.193563f
c110 8 0 0.226361f
c111 5 0 0.248068f
c112 3 0 0.210547f
r113 59 60 11.1176
r114 52 65 15.2843
r115 51 53 0.0519666
r116 51 52 7
r117 46 48 0.155833
r118 44 45 0.0565722
r119 39 42 0.0944444
r120 36 59 12.5
r121 35 38 0.0519666
r122 35 36 7
r123 32 33 0.0377999
r124 30 57 5.55556
r125 29 32 0.0283333
r126 29 30 7
r127 27 46 0.00499195
r128 27 53 0.3825
r129 24 48 0.00499195
r130 24 33 0.453333
r131 23 32 0.0216719
r132 23 45 0.162917
r133 20 39 0.0216719
r134 20 44 0.2125
r135 19 39 0.0216719
r136 19 38 0.262083
r137 16 65 91.6667
r138 10 12 37.5
r139 9 59 6.3741
r140 8 10 13.9682
r141 8 9 50
r142 5 57 6.3741
r143 5 7 45.8333
r144 3 60 37.5
.ends

.subckt PM_SDFRX1%D 3 7 9 12 14 16 17 18 21 22
c50 22 0 0.155358f
c51 21 0 0.0222971f
c52 18 0 0.124816f
c53 17 0 0.16348f
c54 16 0 0.0217612f
c55 12 0 0.0354269f
c56 9 0 0.0849991f
c57 7 0 0.323678f
c58 3 0 0.33643f
r59 22 29 15.2843
r60 21 24 0.0519666
r61 21 22 7
r62 17 27 15.2843
r63 16 18 0.0519666
r64 16 17 7
r65 12 14 0.084442
r66 12 24 0.0920833
r67 9 14 0.084442
r68 9 18 0.240833
r69 7 29 81.25
r70 3 27 91.6667
.ends

